US07495103B2
To a solution of tert-butyl 2-tert-butyl-5-nitrobenzylcarbamate (20 mg, 0.065 mmol) in 5% AcOH-MeOH (1 mL) was added 10% Pd—C (14 mg) under nitrogen atmosphere. The mixture was stirred under H2 (1 atm) at room temperature for 1 h. The catalyst was removed via filtration through Celite, and the filtrate was concentrated to give tert-butyl 2-tert-butyl-5-aminobenzylcarbamate (E-4), which was used without further purification. 1H NMR (400 MHz, CDCl3) δ 7.09 (d, J=8.5 Hz, 1H), 6.62 (d, J=2.6 Hz, 1H), 6.47 (dd, J=8.5, 2.6 Hz, 1H), 4.61 (br s, 1H), 4.40 (d, J=5.1 Hz, 2H), 4.15 (br s, 2H), 1.39 (s, 9H), 1.29 (s, 9H); HPLC ret. time 2.47 min, 10-100% CH3CN, 5 min gradient; ESI-MS 279.3 m/z (MH+).

reactant | tert-butyl 2-tert-butyl-5-nitrobenzylcarbamate | 0.065 mmol, 20 mg | C(C)(C)(C)C1=C(CNC(OC(C)(C)C)=O)C=C(C=C1)[N+](=O)[O-] | C16H24N2O4
solvent | AcOH MeOH | 1 mL | CC(=O)O.CO
catalyst | Pd—C | 14 mg | [Pd] | Pd
product | tert-butyl 2-tert-butyl-5-aminobenzylcarbamate | C(C)(C)(C)C1=C(CNC(OC(C)(C)C)=O)C=C(C=C1)N | C16H26N2O2
